US07547691B2
(C). Preparation of 4-methanesulfonyloxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester
To 4-hydroxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester (1.25 g, 5.45 mmol) and pyridine (0.661 mL, 8.18 mmol) in dichloromethane (10 mL) at 0° C. is added methanesulfonyl chloride (0.593 mL, 7.63 mmol). After 3 hours, one additional equivalent of methanesulfonylchloride and pyridine are added. After 1 hour the reaction mixture is concentrated, then EtOAc and water are added. The organic layer is concentrated and chromatographed on silica gel eluting with MeOH in dichloromethane 0-3% to give the title compound as a yellow oil (1.60 g, 95% yield).

reactant | 4-hydroxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 5.45 mmol, 1.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CO | C12H23NO3
reactant | pyridine | 8.18 mmol, 0.661 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 7.63 mmol, 0.593 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-methanesulfonyloxymethyl-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 1.60 g, 95% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)COS(=O)(=O)C | C13H25NO5S
